* dual-rail differential-sum tap: two flying caps (true+false) dump onto shared C2
.OPTIONS TIMEINT METHOD=TRAP RELTOL=1e-6 ABSTOL=1e-14 CHGTOL=1e-16
.param CL=10f CFLY=10f RON=50 TX=1n TEDGE=1p
Cflt PT 0 {CFLY}
Cflf PF 0 {CFLY}
Vtt PT SWT 0
Vtf PF SWF 0
Bswt SWT MID I={ (max(0,min(1,(TIME-TX)/TEDGE))/RON)*(V(SWT)-V(MID)) }
Bswf SWF MID I={ (max(0,min(1,(TIME-TX)/TEDGE))/RON)*(V(SWF)-V(MID)) }
Vsw MID N2 0
C2 N2 0 {CL}
.IC V(PT)=0.0 V(PF)=0.6 V(N2)=0
.tran 0.05p 1.6n UIC
.measure tran QDEL INTEGRAL I(Vsw) FROM=1n TO=1.5n
.measure tran VN2  FIND V(N2) AT=1.5n
.end
